US08044208B2
c) Diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-(1H-imidazol-4-yl)malonate
4.2 g (7.61 mmol) of diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]malonate were dissolved in 190 ml of methanol and stirred with 4.66 g (30.45 mmol) of 1-hydroxybenzotriazole hydrate at RT for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was chromatographed on silica gel (CH2Cl2:MeOH 9:1). The product-containing fractions were concentrated and the oil obtained was dissolved in ethyl acetate and washed with saturated NaHCO3 solution. The organic phase was dried over Na2SO4, filtered and concentrated. This gave 2.14 g (71%) of the title compound.

reactant | diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]malonate | 7.61 mmol, 4.2 g | C(C)(C)(C)OC(=O)NCCCCC(C(=O)OCC)(C(=O)OCC)C=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C | C26H37N3O8S
reactant | 1-hydroxybenzotriazole hydrate | 30.45 mmol, 4.66 g | O.ON1N=NC2=C1C=CC=C2
solvent | methanol | 190 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl 2-(4-tert-butoxycarbonylaminobutyl)-2-(1H-imidazol-4-yl)malonate | C(C)(C)(C)OC(=O)NCCCCC(C(=O)OCC)(C(=O)OCC)C=1N=CNC1 | C19H31N3O6
